US08445510B2
1-(Cyclopent-3-en-1-yl)-4-iodo-3,5-dimethyl-1H-pyrazole
To an ice-cold solution of 3,5-dimethyl-4-iodo-1H-pyrazole (5.00 g, 22.5 mmol) in DMF (15 mL) was added NaH (60%, 1.08 g, 27 mmol) in portions and stirred at room temperature for 1 h. To this was added methanesulfonic acid cyclopent-3-enyl ester (4.00 g, 24.7 mmol) and heated at 60° C. overnight. The reaction mixture was poured into water and extracted with ethyl acetate (60 mL). The ethyl acetate layer was washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by column chromatography using 5-10% ethyl acetate in hexane to give the title compound as an oil. 1H NMR (300 MHz, CDCl3): δ=5.75 (s, 2H), 4.97 (m, 1H), 2.79 (d, 4H, J=7.2 Hz), 2.28 (s, 3H), 2.22 (s, 3H).

reactant | 3,5-dimethyl-4-iodo-1H-pyrazole | 22.5 mmol, 5.00 g | CC1=NNC(=C1I)C | C5H7IN2
reactant | NaH | 27 mmol, 1.08 g | [H-].[Na+]
reactant | methanesulfonic acid cyclopent-3-enyl ester | 24.7 mmol, 4.00 g | C1(CC=CC1)OS(=O)(=O)C | C6H10O3S
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(Cyclopent-3-en-1-yl)-4-iodo-3,5-dimethyl-1H-pyrazole | C1(CC=CC1)N1N=C(C(=C1C)I)C | C10H13IN2
